US04352811
5-Fluoro-3-{1-[1,3-dihydro-2-oxo-2H-benzimidazol-1-ylpropyl]-4-piperidyl}-1,2-benzisoxazole
A mixture of 3.9 g of 5-fluoro-3-(4-piperidyl)-1,2-benzisoxazole, 3.8 g of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 2.7 g of sodium carbonate, a few crystals of potassium iodide and 140 ml of 2-methyl-4-pentanone was stirred and was heated under reflux under nitrogen for 8 hrs. After stirring at ambient temperature for 12 hrs, the mixture was filtered and the filter cake was stirred with 200 ml of water. The solid was collected and dried. Recrystallization from methanol-dimethylformamide-water gave 2.5 g (35.8%) of product. The product was combined with 1.0 g of that from another run to yield a total of 3.5 g of product, mp 202°-204°.

reactant | 5-fluoro-3-(4-piperidyl)-1,2-benzisoxazole | 3.9 g | FC=1C=CC2=C(C(=NO2)C2CCNCC2)C1 | C12H13FN2O
reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | 3.8 g | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | sodium carbonate | 2.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 2-methyl-4-pentanone | 140 ml | CC(C)CC(C)=O | C6H12O
product | 5-Fluoro-3-{1-[1,3-dihydro-2-oxo-2H-benzimidazol-1-ylpropyl]-4-piperidyl}-1,2-benzisoxazole | 2.5 g, 35.8% | FC=1C=CC2=C(C(=NO2)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C1 | C22H23FN4O2
